US04061761
c. 3-Ethyl-2-ethylimino-4-(3-n-butylsulfamoyl-4-chlorophenyl)-1,3-thiazolidine-4-ol-hydrochloride
6.4 g of 3'-n-butylsulfamoyl-2,4'-dichloroacetophenone and 2.7 g of ground 1,3-diethylthiourea were reacted as prescribed in Example 12. With the addition of 200 ml of diisopropyl ether, the oily end product was precipitated and the solvent was decanted. The amorphous residue was dissolved in 100 ml of water and liophylized. Colorless solid body, decomposition beginning at 130° C, γC=N 1620 cm-1.

reactant | 3'-n-butylsulfamoyl-2,4'-dichloroacetophenone | 6.4 g | C(CCC)NS(=O)(=O)C=1C=C(C=CC1Cl)C(CCl)=O | C12H15Cl2NO3S
reactant | 1,3-diethylthiourea | C(C)NC(=S)NCC | C5H12N2S
solvent | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | 3-Ethyl-2-ethylimino-4-(3-n-butylsulfamoyl-4-chlorophenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(NCCCC)(=O)=O)=NCC | InChI=1S/C17H26ClN3O3S2.ClH/c1-4-7-10-20-26(23,24)15-11-13(8-9-14(15)18)17(22)12-25-16(19-5-2)21(17)6-3;/h8-9,11,20,22H,4-7,10,12H2,1-3H3;1H
